US08138197B2
Production of 1′-{[3-(1H-indol-5-yl)-5-methoxyphenyl]carbonyl}-6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one
WSC hydrochloride (52.5 mg, 0.274 mmol) was added to a mixture of 3-(1H-indol-5-yl)-5-methoxybenzoic acid (61.0 mg, 0.228 mmol), 6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride (73.4 mg, 0.228 mmol), HOBT (34.9 mg, 0.228 mmol), triethylamine (0.048 mL, 0.34 mmol), chloroform (0.4 mL) and NMP (0.8 mL), and stirred at room temperature for 20 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified through high-performance preparative liquid chromatography (0.1% TFA, water/acetonitrile) to obtain the title compound as a pale yellow solid. 1H-NMR (400 MHz, DMSO-d6) δ: 11.18 (1H, s), 8.43 (1H, d J=2.3 Hz), 8.25 (1H, dd, J=8.8, 2.3 Hz), 7.87-7.86 (1H, m), 7.47 (1H, d, J=8.4 Hz), 7.41 (1H, dd, J=8.4, 1.7 Hz), 7.39 (1H, t, J=2.8 Hz), 7.35 (1H, d, J=8.8 Hz), 7.26 (1H, dd, J=2.4, 1.5 Hz), 7.24 (1H, t, J=1.5 Hz), 6.87 (1H, dd, J=2.4, 1.5 Hz), 6.49 (1H, ddd, J=2.8, 2.1, 0.7 Hz), 4.37-4.23 (1H, m), 3.86 (3H, s), 3.66-3.18 (3H, m), 2.99 (2.0H, s), 2.14-1.81 (4H, m). MS [M−H]−=533.

reactant | WSC hydrochloride | 0.274 mmol, 52.5 mg | CCN=C=NCCCN(C)C.Cl
reactant | 3-(1H-indol-5-yl)-5-methoxybenzoic acid | 0.228 mmol, 61.0 mg | N1C=CC2=CC(=CC=C12)C=1C=C(C(=O)O)C=C(C1)OC | C16H13NO3
reactant | 6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride | 0.228 mmol, 73.4 mg | Cl.N1N=NN=C1C=1C=C2C(CC3(CCNCC3)OC2=CC1)=O
reactant | HOBT | 0.228 mmol, 34.9 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 0.34 mmol, 0.048 mL | C(C)N(CC)CC | C6H15N
solvent | NMP | 0.8 mL | CN1CCCC1=O | C5H9NO
solvent | chloroform | 0.4 mL | C(Cl)(Cl)Cl | CHCl3
product | 1′-{[3-(1H-indol-5-yl)-5-methoxyphenyl]carbonyl}-6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one | N1C=CC2=CC(=CC=C12)C=1C=C(C=C(C1)OC)C(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)C2=NN=NN2 | C30H26N6O4
